US06894061B2
3-Chloro-5-[(4-methoxyphenyl)sulfonyl]-6-methyl-5,6-dihydrophenanthridine
The title compound was prepared from N-[1-(4′-chloro-2′-fluoro-1,1′-biphenyl-2-yl)ethyl]-4-methoxybenzenesulfonamide (617 mg, 1.5 mmol), anhydrous N,N-dimethylformamide (2 mL), and potassium carbonate (414 mg, 3.0 mmol) according to the procedure and in the same manner as described in Example 105, step d resulting in the isolation of 607 mg (93%) of a white solid that was used without further purification;

reactant | N-[1-(4′-chloro-2′-fluoro-1,1′-biphenyl-2-yl)ethyl]-4-methoxybenzenesulfonamide | 1.5 mmol, 617 mg | ClC1=CC(=C(C=C1)C1=C(C=CC=C1)C(C)NS(=O)(=O)C1=CC=C(C=C1)OC)F | C21H19ClFNO3S
reactant | potassium carbonate | 3.0 mmol, 414 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 3-Chloro-5-[(4-methoxyphenyl)sulfonyl]-6-methyl-5,6-dihydrophenanthridine | ClC=1C=CC=2C3=CC=CC=C3C(N(C2C1)S(=O)(=O)C1=CC=C(C=C1)OC)C | C21H18ClNO3S
